### PR TITLE
feat: monotonicity of weighted L^p norms in p

### PR DESCRIPTION
**Pull request by dannyply**
Fill the `sorry` in `APAP/Prereqs/LpNorm/Weighted.lean` by proving the probability-weighted monotonicity lemma:

```lean
lemma wLpNorm_mono_right_of_sum_eq_one
```
The proof turns the weighted norm into an eLpNorm for the discrete probability measure associated to the weights, then applies monotonicity of eLpNorm in the exponent.

This also updates the existing uses in `APAP/Physics/DRC.lean`, `APAP/Physics/Unbalancing.lean`, and `APAP/FiniteField.lean`, where the relevant weights have total mass `1`.

Produced with assistance from a prototype agentic Lean proof-search system. Codex was used for review, refinement and simplification.

### CODE REVIEW

**Comment by dannyply** [comment]
CI builds the full project, so I added the corresponding `APAP/FiniteField.lean` call-site update for the new probability-weighted monotonicity lemma.

File: APAP/FiniteField.lean [hunk 1]
```diff
@@ -363,7 +363,11 @@ lemma di_in_ff [DecidableEq G] [MeasurableSpace G] [DiscreteMeasurableSpace G] (
       1 + ε / 4 = 1 + ε / 2 / 2 := by ring
       _ ≤ ‖card G • (f ○ f) + 1‖_[p', μ univ] := unbalancing
       _ = card G • ‖(μ_[ℝ] A ○ μ A)‖_[p', μ univ] := by simp [this, wLpNorm_nsmul, -nsmul_eq_mul]
-      _ ≤ card G • ‖(μ_[ℝ] A ○ μ A)‖_[q', μ univ] := by gcongr
+      _ ≤ card G • ‖(μ_[ℝ] A ○ μ A)‖_[q', μ univ] := by
+        haveI : Nonempty G := ⟨hA₀.choose⟩
+        gcongr
+        exact wLpNorm_mono_right_of_sum_eq_one
+          (by exact_mod_cast sum_mu (R := ℝ≥0) univ_nonempty) (by exact_mod_cast hp'q') _
```
Comment (YaelDillies) [inline APAP/FiniteField.lean]: `by exact_mod_cast` = `by exact mod_cast` = `mod_cast`
```suggestion
          (mod_cast sum_mu (R := ℝ≥0) univ_nonempty) (mod_cast hp'q') _
```
Same everywhere else

File: APAP/Prereqs/LpNorm/Weighted.lean [hunk 2]
```diff
@@ -103,11 +103,22 @@ lemma wLpNorm_pow_eq_sum_norm {p : ℕ} (hp : p ≠ 0) (w : α → ℝ≥0) (f :
 lemma wL1Norm_eq_sum_norm (w : α → ℝ≥0) (f : α → E) : ‖f‖_[1, w] = ∑ i, w i • ‖f i‖ := by
   simp [wLpNorm_eq_sum_norm]
 
-omit [Fintype α]
+/-- Monotonicity of weighted `L^p` norms in the exponent, for probability weights. -/
+lemma wLpNorm_mono_right_of_sum_eq_one
```
Comment (YaelDillies) [inline APAP/Prereqs/LpNorm/Weighted.lean]: It's okay to drop assumptions from lemma names if no ambiguity arises
```suggestion
lemma wLpNorm_mono_right
```

Comment (dannyply) [reply APAP/Prereqs/LpNorm/Weighted.lean]: Done

File: APAP/FiniteField.lean (hunk 1 above)
Comment (dannyply) [reply APAP/FiniteField.lean]: Done

File: APAP/Physics/DRC.lean [hunk 3]
```diff
@@ -264,10 +264,13 @@ lemma sifting_cor (hε : 0 < ε) (hε₁ : ε ≤ 1) (hδ : 0 < δ) (hp : Even p
       rw [mul_div_assoc, ← div_pow]
       gcongr
       rw [nnratCast_dens, le_div_iff₀ (by positivity), ← mul_div_right_comm]
+      have hμ_univ : ∑ x : G, ((μ univ x : ℝ≥0) : ℝ≥0∞) = 1 := by
+        haveI : Nonempty G := ⟨hA.choose⟩
+        exact mod_cast sum_mu (R := ℝ≥0) univ_nonempty
```
Comment (YaelDillies) [inline APAP/Physics/DRC.lean]:
```suggestion
      have : Nonempty G := ⟨hA.choose⟩
      have hμ_univ : ∑ x : G, ((μ univ x : ℝ≥0) : ℝ≥0∞) = 1 :=
        mod_cast sum_mu univ_nonempty
```

File: APAP/Physics/Unbalancing.lean [hunk 4]
```diff
@@ -69,12 +69,14 @@ private lemma unbalancing'' (p : ℕ) (hp : 5 ≤ p) (hp₁ : Odd p) (hε₀ : 0
     (hf : g ○ g = (↑) ∘ f) (hν : h ○ h = (↑) ∘ ν) (hν₁ : ∑ x, ν x = 1)
     (hε : ε ≤ ‖f‖_[p, ν]) :
     1 + ε / 2 ≤ ‖f + 1‖_[.ofReal (24 / ε * log (3 / ε) * p), ν] := by
+  have hνprob : ∑ x, (ν x : ℝ≥0∞) = 1 := by
+    exact mod_cast hν₁
```
Comment (YaelDillies) [inline APAP/Physics/Unbalancing.lean]:
```suggestion
  have hνprob : ∑ x, (ν x : ℝ≥0∞) = 1 := mod_cast hν₁
```
or inline this even? Same below

File: APAP/Prereqs/LpNorm/Weighted.lean [hunk 5]
```diff
@@ -103,11 +103,22 @@ lemma wLpNorm_pow_eq_sum_norm {p : ℕ} (hp : p ≠ 0) (w : α → ℝ≥0) (f :
 lemma wL1Norm_eq_sum_norm (w : α → ℝ≥0) (f : α → E) : ‖f‖_[1, w] = ∑ i, w i • ‖f i‖ := by
   simp [wLpNorm_eq_sum_norm]
 
-omit [Fintype α]
+/-- Monotonicity of weighted `L^p` norms in the exponent, for probability weights. -/
+lemma wLpNorm_mono_right
+    (hw : ∑ i, (w i : ℝ≥0∞) = 1) (hpq : p ≤ q) (f : α → E) :
+    ‖f‖_[p, w] ≤ ‖f‖_[q, w] := by
+  haveI : IsProbabilityMeasure (Measure.sum fun i ↦ (w i : ℝ≥0) • Measure.dirac (i : α)) := by
```
Comment (YaelDillies) [inline APAP/Prereqs/LpNorm/Weighted.lean]: The `I` in `haveI` means "inline", not "instance". You should basically always use `have` instead
```suggestion
  have : IsProbabilityMeasure (Measure.sum fun i ↦ (w i : ℝ≥0) • Measure.dirac (i : α)) := by
```

File: APAP/Physics/DRC.lean (hunk 3 above)
Comment (dannyply) [reply APAP/Physics/DRC.lean]: Done, except Lean still needed (R := ℝ≥0) on sum_mu

File: APAP/Prereqs/LpNorm/Weighted.lean (hunk 5 above)
Comment (dannyply) [reply APAP/Prereqs/LpNorm/Weighted.lean]: Done, similar cleanup applied in APAP/FiniteField.lean

File: APAP/Physics/Unbalancing.lean (hunk 4 above)
Comment (dannyply) [reply APAP/Physics/Unbalancing.lean]: Done

**Review by YaelDillies — APPROVED** [review]
Thanks!

**Comment by YaelDillies** [comment]
Instead of replying with "Done", you can mark the relevant comment as resolved from the GitHub UI.
